US05612286
6. 2-(Methylsulfinyl)benzenesulfonamide
14.8 g of hydrogen peroxide (0.13 mol), 30% strength in H2O, were added dropwise at from 25° to 30° C. to a suspension of 26.5 g 6f 2-(methylthio)benzenesulfonamide (0.13 mol) and 2.1 g of Na2WO4 ·2H2O in 88 ml of glacial acetic acid. Stirring was carried out for 45 minutes at 25° C., the reaction mixture was poured onto 400 ml of water and the precipitate was filtered off with suction. It was washed with water and dried under reduced pressure from a water pump at 40° C. 24.3 g (85% of theory) of the title compound were thus obtained.

reactant | hydrogen peroxide | 0.13 mol, 14.8 g | OO | H2O2
reactant | 2-(methylthio)benzenesulfonamide | 0.13 mol | CSC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S2
solvent | H2O | O | H2O
solvent | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
solvent | water | 400 ml | O | H2O
product | 2-(Methylsulfinyl)benzenesulfonamide | CS(=O)C1=C(C=CC=C1)S(=O)(=O)N | C7H9NO3S2
